US05231102
b) Trans-2-Carboxy-5,7-dichloro-4-methylsulphonylamino-1,2,3,4-tetrahydroquinoline
To a solution of trans-5,7-dichloro-2-methoxy-carbony-4-methylsulphonylamino-1,2,3,4-tetrahydro-quinoline (0.127 g, 0.36 mmol) in tetrahydrofuran (10 ml) was added water (5 ml) and aqueous lithium hydroxide (0.80 ml of a 0.5 M solution, 0.40 mmol) and the resulting mixture was stirred at room temperature for 1.5 hours. The organic solvent was removed in vacuo and to the aqueous residue was added dilute sodium hydrogen carbonate solution (40 ml). The mixture was washed with ethyl acetate (30 ml), the pH of the aqueous layer was adjusted to 1 with dilute hydrochloric acid and extracted with ethyl acetate (2×40 ml). The combined organic extracts were washed with brine (40 ml), dried (Na2SO4) and evaporated to give the crude product which was triturated with diethyl ether to give the title compound as colourless crystals (0.08 g, m.p. 194°-195° C.); δ (360 MHz, DMSO) 1.60 (1H, m, CHACHBHCCHD), 2.47 (1H, m, CHACHBHCCHD), 3.04 (3H, s, CH3), 4.00 (1H, m, CHACHBHCCHD), 4.65 (1H, m, CHACHBHCCHD), 6.64 (1H, d, J=1.9 Hz, 6-H or 8-H), 6.76 (1H, br, s, ArNH), 6.84 (1H, d, J=1.9 Hz, 6-H or 8-H), 7.43 (1H, d, J=5.8 Hz, CHNHSO2CH3); m/e (FAB) 337 (M-1); Found: C, 39.13; H, 3.60; N, 8.02; C11H12Cl2N2O4S requires C, 38.95; H, 3.57; N, 8.26%.

reactant | trans-5,7-dichloro-2-methoxy-carbony-4-methylsulphonylamino-1,2,3,4-tetrahydro-quinoline | 0.36 mmol, 0.127 g | ClC1=C2[C@H](C([C@@H](NC2=CC(=C1)Cl)OC)=C=O)NS(=O)(=O)C | C12H12Cl2N2O4S
reactant | water | 5 ml | O | H2O
reactant | lithium hydroxide | [OH-].[Li+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Trans-2-Carboxy-5,7-dichloro-4-methylsulphonylamino-1,2,3,4-tetrahydroquinoline | 0.08 g | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NS(=O)(=O)C)Cl)Cl | C11H12Cl2N2O4S
